US06413938B1
A. 4-Chloro-2-nitro-5-methylthioaniline
Methyl mercaptan gas was passed into a stirred suspension of 1.16 g (30 mmol) of 60% oil-dispersed NaH in 45 mL of DMF until evolution of H2 gas ceased. 5 g (24 mmol) of 4,5-dichloro-2-nitroaniline (Aldrich) was then added portionwise. After 30 min of stirring, the reaction mixture was poured into 200 mL of water. Yellow precipitate formed was collected by filtration and dried. This gave 3.8 g (72%) of the title compound as a yellow solid. 1H NMR (DMSO-d6) δ2.5 (s, 3H, CH3), 6.9 (s, 1H, aromatic), 7.6 (br s, 2H, NH2), 8.0 (s, 1H, aromatic)

reactant | Methyl mercaptan | CS | CH4S
reactant | NaH | [H-].[Na+]
reactant | 4,5-dichloro-2-nitroaniline | 24 mmol, 5 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | water | 200 mL | O | H2O
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-nitro-5-methylthioaniline | ClC1=CC(=C(N)C=C1SC)[N+](=O)[O-] | C7H7ClN2O2S
